US06921759B2
Step 4: Preparation of tert-butyl 1,2,5-thiadiazepane-5-carboxylate 1,1-dioxide
To a solution of 1,2,5-thiadiazepane 1,1-dioxide 90.10 g, 0.67 mmol) in pyridine (1 mL) was added di-tert-butyldicarbonate 0.174 g, 0.799 mmol). After 24 hr the reaction was quenched with NaHCO3 (sat aq.) and extracted into methylene chloride. The organic extracts were dried (MgSO4) and the solvent evaporated in vacuo. The residue was purified by chromatography (SiO2, EtOAc/CH2Cl2: 1:1) to afford the title compound as a white solid.

reactant | 1,2,5-thiadiazepane 1,1-dioxide | 0.67 mmol, 90.10 g | S1(NCCNCC1)(=O)=O | C4H10N2O2S
reactant | di-tert-butyldicarbonate | 0.799 mmol, 0.174 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl 1,2,5-thiadiazepane-5-carboxylate 1,1-dioxide | S1(NCCN(CC1)C(=O)OC(C)(C)C)(=O)=O | C9H18N2O4S
